US06087368
1-(4-Fluorophenylmethyl)-6-(4-cyano-2-propoxyphenyl)-1H-imidazo[4,5-g]quinazolin-8(7H)-one
1-(4-Fluorophenylmethyl)-6-(4-bromo-2-propoxyphenyl)-1H-imidazo[4,5-g]quinazolin-8(7H)-one (507 mg, 1 mmol) was dissolved in 6 mL N-methyl-2-pyrrolidinone containing copper (I) cyanide (178 mg, 2 mmol). The reaction was heated to reflux overnight, then cooled to room temperature and poured into 100 mL of 2N aqueous ammonia solution. The solid that precipitated was collected by filtration and washed first with 2N aqueous ammonia, then water and dried in a vacuum oven at 45° C. overnight to afford the title compound as a yellow solid (464 mg, 0.91 mmol, 91% yield). HPLC: (YMC S5 ODS 4.6×50 mm column, 4 minute gradient-0% B to 100% B, 4 mL/min flow, solvent A: 10% MeOH-90% H2O-0.2% H3PO4, solvent B: 90% MeOH-10% H2O-0.2% H3PO4) retention time 3.65 minutes.

reactant | 1-(4-Fluorophenylmethyl)-6-(4-bromo-2-propoxyphenyl)-1H-imidazo[4,5-g]quinazolin-8(7H)-one | 1 mmol, 507 mg | FC1=CC=C(C=C1)CN1C=NC=2C1=CC=1C(NC(=NC1C2)C2=C(C=C(C=C2)Br)OCCC)=O | C25H20BrFN4O2
reactant | copper (I) cyanide | 2 mmol, 178 mg | [Cu]C#N
reactant | ammonia | 2N, 100 mL | N | H3N
solvent | N-methyl-2-pyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(4-Fluorophenylmethyl)-6-(4-cyano-2-propoxyphenyl)-1H-imidazo[4,5-g]quinazolin-8(7H)-one | 0.91 mmol, 464 mg, 91% yield | FC1=CC=C(C=C1)CN1C=NC=2C1=CC=1C(NC(=NC1C2)C2=C(C=C(C=C2)C#N)OCCC)=O | C26H20FN5O2
